US06806265B2
b) Ethyl 5-(4-hydroxyphenyl)-2-methyl-3-furanecarboxylate
A solution of NaNO2 (111 mg, 1.61 mmol) in water (1 mL) was added over 5 min to an ice-cold suspension of ethyl 5-(4-aminophenyl)-2-methyl-3-furanecarboxylate (395 mg, 1.61 mmol) in aqueous 1 M H2SO4 solution (12 mL). The reaction mixture was stirred at 0° C. for 20 min then was heated to 90° C. for 1 h. The cooled mixture was extracted with EtOAc. The organic layer was washed with water (2×) and brine, dried (MgSO4), filtered and concentrated under reduced pressure to yield the title compound (78 mg, 20% yield) as a white solid.

reactant | NaNO2 | 1.61 mmol, 111 mg | N(=O)[O-].[Na+]
reactant | ethyl 5-(4-aminophenyl)-2-methyl-3-furanecarboxylate | 1.61 mmol, 395 mg | NC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OCC | C14H15NO3
solvent | water | 1 mL | O | H2O
solvent | H2SO4 | 1 M, 12 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 5-(4-hydroxyphenyl)-2-methyl-3-furanecarboxylate | 78 mg, 20% yield | OC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OCC | C14H14O4
